Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[O:9][C:10]([H:11])[H:12],2.65064165621
[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-4.550561303069999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1],6.97754102796
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]=[O:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]1([H:12])[C:13][O:14]1,2.55511097349
[C:2](#[C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-3.05031638226
[H:12].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.9919497766
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.8667999879500004
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[H:5],0.4624147663100001
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8],-5.25732114901
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-6.218943239400001
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.1152455633
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-1.5400439470200002
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.82834035939
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][H:3],7.50221122768
[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1],7.25661814377
[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[O:7][H:8]>>[C:2]([H:3])#[C:4][C:5]([H:6])[O:7][H:8].[O:1],4.41977159091
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],4.03869306294
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.579258021569999
[C:3](\[H:4])([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.94312200437
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([O:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],1.20236306361
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:9][H:10].[H:8],1.6659790288
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.31376097509
[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:7]([H:8])([H:9])[H:10].[H:6],4.63339024965
[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.767842585998
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-3.4779950530300003
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.45811394375
[O:1]=[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:5]#[C:6][H:7].[O:1]=[C:2]=[C:3]([H:4])[O:8][H:9],3.44636245331
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.8206804351300003
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-1.7274901288599998
